US07285557B2
2-Methyl-2-pyrrolidin-1-ylpropan-1-ol
Ethyl 2-methyl-2-pyrrolidin-1-ylpropanoate (0.6162 g, 3.3308 mmol) was taken up in dry THF (5 mL). A 1M solution of LAH in THF (3.7 mL, 3.6639 mmol) was added drop wise. The reaction was warmed to 50° C. and stirred for 18 h. Cooleed to 0° C. in an ice bath and methanol (5 mL) was added slowly. The reaction was diluted with water (50 mL) and extracted with Et2O (2×50 mL). The organics were concentrated by blowing a slow stream of N2 over the flask to give 0.3578 g (2.0682 mmol, 62%) of the product as a light brown oil. 1H NMR (CDCl3) δ 3.22 (s, 2H), 2.61 (bs, 4H), 1.79 (bs, 4H), 1.01 (s, 6H).

reactant | Ethyl 2-methyl-2-pyrrolidin-1-ylpropanoate | 3.3308 mmol, 0.6162 g | CC(C(=O)OCC)(C)N1CCCC1 | C10H19NO2
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methanol | 5 mL | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
solvent | THF | 3.6639 mmol, 3.7 mL | C1CCOC1 | C4H8O
product | 2-Methyl-2-pyrrolidin-1-ylpropan-1-ol | 2.0682 mmol, 0.3578 g, 62% | CC(CO)(C)N1CCCC1 | C8H17NO
